* MOSFET DC Characteristics Simulation with Temperature Analysis
.option temp=27 tnom=27
.option gmin=1e-15
.option reltol=1e-8
.option abstol=1e-12
.option chgtol=1e-15
.option method=gear
.option TEMP=27
.option TNOM=27
.option TEMPSCALE=1.0

* Include FreePDK45 model
.inc ../models/ngspice-cmos/FreePDK45/nom.inc

* IV Characteristics Circuit
Vds_iv drain_iv 0 DC 0
Vgs_iv gate_iv 0 DC 0
Vs_iv source_iv 0 DC 0
Vb_iv bulk_iv 0 DC 0

* MOSFET device under test - standard 45nm transistor
M1 drain_iv gate_iv source_iv bulk_iv NMOS_VTG L=0.045u W=10u

* Bias Point Analysis Circuit
Vds_bias drain_bias 0 DC 0
Vgs_bias gate_bias 0 DC 0
Vs_bias source_bias 0 DC 0
Vb_bias bulk_bias 0 DC 0

* MOSFET device under test for bias point analysis
M3 drain_bias gate_bias source_bias bulk_bias NMOS_VTG L=0.045u W=10u

* CV Characteristics Circuit - Enhanced for realistic operation in all regions
Vg_cv gate_cv 0 DC 0 AC 1
Vd_cv drain_cv 0 DC 1.0
Vs_cv source_cv 0 DC 0 
Vb_cv bulk_cv 0 DC 0

* MOSFET device under test - standard 45nm transistor
M2 drain_cv gate_cv source_cv bulk_cv NMOS_VTG L=0.045u W=10u

* Control block
.control
set filetype=ascii
set wr_vecnames
set wr_singlescale
set wr_singleprecision
set wr_formatted

* Run DC analysis with temperature sweep
echo "Starting temperature sweep"

* Temperature -40°C
option temp=-40
echo "Running simulation at temperature: -40 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
* Write data in the order expected by data_reader: v(d) v(g) i(vds) i(vs) i(vb) i(vgs) kcl
wrdata ./iv_data_-40.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 0°C
option temp=0
echo "Running simulation at temperature: 0 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_0.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 25°C
option temp=25
echo "Running simulation at temperature: 25 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_25.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 50°C
option temp=50
echo "Running simulation at temperature: 50 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_50.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 100°C
option temp=100
echo "Running simulation at temperature: 100 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_100.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 150°C
option temp=150
echo "Running simulation at temperature: 150 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_150.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Bias Point Analysis Section
echo "Starting bias point analysis"

* Set up bias points for analysis
let vds_points = (0.0 0.6 1.2)
let vgs_points = (0.0 0.6 1.2)

* Run bias point analysis at room temperature
option temp=27
echo "Running bias point analysis at 27°C"

* Loop through bias points
let i = 0
while i < length(vds_points)
    let j = 0
    while j < length(vgs_points)
        * Set bias voltages
        alter Vds_bias = vds_points[i]
        alter Vgs_bias = vgs_points[j]
        
        * Run DC analysis at this bias point
        op
        let id_bias = i(Vds_bias)
        let is_bias = i(Vs_bias)
        let ig_bias = i(Vgs_bias)
        let ib_bias = i(Vb_bias)
        
        * Write data for this bias point
        wrdata ./bias_point_data.txt v(drain_bias) v(gate_bias) id_bias ig_bias is_bias ib_bias append
        
        let j = j + 1
    end
    let i = i + 1
end

* Enhanced CV simulation section - runs at multiple frequencies

* Set up gate voltage sweep parameters
let vg_start = -0.8   ; Start accumulation region
let vg_stop = 1.2     ; End strong inversion
let vg_step = 0.05    ; Small step size for smooth curve
let num_points = floor((vg_stop - vg_start)/vg_step) + 1

* Perform gate voltage sweep with measurements at each bias point
let vg_bias = vg_start
while vg_bias <= vg_stop
    * Set gate bias
    alter Vg_cv = vg_bias
    
    * Run AC analysis at multiple frequencies
    * 1kHz (low frequency response)
    ac lin 1 1k 1k
    let cgg_1k = -imag(i(Vg_cv))/(2*3.14159*1e3)
    
    * 10kHz
    ac lin 1 10k 10k
    let cgg_10k = -imag(i(Vg_cv))/(2*3.14159*1e4)
    
    * 100kHz
    ac lin 1 100k 100k
    let cgg_100k = -imag(i(Vg_cv))/(2*3.14159*1e5)
    
    * 1MHz (standard frequency for CV measurements)
    ac lin 1 1meg 1meg
    let cgg_1m = -imag(i(Vg_cv))/(2*3.14159*1e6)
    
    * Calculate individual capacitance components at 1MHz
    * These help identify the behavior in different regions
    let cgb_1m = abs(imag(v(gate_cv,bulk_cv)/i(Vg_cv)))/(2*3.14159*1e6)
    let cgs_1m = abs(imag(v(gate_cv,source_cv)/i(Vg_cv)))/(2*3.14159*1e6)
    let cgd_1m = abs(imag(v(gate_cv,drain_cv)/i(Vg_cv)))/(2*3.14159*1e6)
        
    * Increment gate voltage
    let vg_bias = vg_bias + vg_step
end

echo "CV simulation completed."

echo "DC analysis completed"
quit
.endc

.end 